US07618975B2
(2-Dimethylaminomethyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine
The title compound was prepared from (2-chloromethyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine and dimethylamine by a procedure similar to Example 76. 1H NMR (DMSO-d6): 7.71 (d, J=8.7 Hz, 1H), 7.60 (t, J=8.4 Hz, 1H), 7.20 (d, J=8.4 Hz, 2H), 7.09 (t, J=8.1 Hz, 1H), 7.00-6.96 (m, 3H), 3.78 (s, 3H), 3.63 (s, 2H), 3.50 (s, 3H), 2.33 (s, 6H).

reactant | (2-chloromethyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | ClCC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C17H16ClN3O
reactant | dimethylamine | CNC | C2H7N
product | (2-Dimethylaminomethyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | CN(C)CC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C19H22N4O
